US08067447B2
A mixture of methyl 2,2-dimethyl-3-phenyl-3-(3-phenyl-1H-indazol-6-yl)propanoate (45 mg, 0.12 mmol), lithium hydroxide monohydrate (50 mg, 1.2 mmol), water (2 mL), and dioxane (4 mL) was stirred at 110° C. overnight. The mixture was cooled to rt and partitioned between water (5 mL) and diethyl ether (10 mL). The ether layer was extracted with water (10 mL). The combined aqueous solutions were acidified with 6N hydrochloric acid, extracted with ethyl acetate (15 mL), washed with brine (10 mL), dried (Na2SO4) and concentrated to give 2,2-dimethyl-3-phenyl-3-(3-phenyl-1H-indazol-6-yl)propanoic acid (46 mg, 0.12 mmol, 100% yield) as a glassy solid.

reactant | methyl 2,2-dimethyl-3-phenyl-3-(3-phenyl-1H-indazol-6-yl)propanoate | 0.12 mmol, 45 mg | CC(C(=O)OC)(C(C1=CC=C2C(=NNC2=C1)C1=CC=CC=C1)C1=CC=CC=C1)C | C25H24N2O2
reactant | lithium hydroxide monohydrate | 1.2 mmol, 50 mg | O.[OH-].[Li+]
reactant | water | 2 mL | O | H2O
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 2,2-dimethyl-3-phenyl-3-(3-phenyl-1H-indazol-6-yl)propanoic acid | 0.12 mmol, 46 mg, 100% yield | CC(C(=O)O)(C(C1=CC=C2C(=NNC2=C1)C1=CC=CC=C1)C1=CC=CC=C1)C | C24H22N2O2
